US07608639B2
3-{4-[3-(4′-Acetyl-5-trifluoromethyl-biphenyl-2-yloxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid
The compound of 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester is reacted with 4-acetyl phenyl boronic acid as in Example 38 to afford 0.056 g (26%) of the title compound. 1H NMR (400 MHz, CDCl3); HRMS (ES+) m/z exact mass calculated for C32H28O5F3 549.1888, found 549.1888.

reactant | 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester | C(C)OC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)C)OC1=C(C=C(C=C1)C(F)(F)F)Br)C)=O | C26H24BrF3O4
reactant | 4-acetyl phenyl boronic acid | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
product | 3-{4-[3-(4′-Acetyl-5-trifluoromethyl-biphenyl-2-yloxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid | 0.056 g, 26% | C(C)(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C(F)(F)F)OC=1C=C(OC2=CC(=C(C=C2)CCC(=O)O)C)C=C(C1)C | C32H27F3O5
